US06503902B2
Step 1: [2-Oxo-1-(3-phenylamino-benzyl)-azepan-3-yl]-carbamic acid tert-butyl ester:
In a 100 ml round bottomed flask Binap, (S)-(−)2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl, (0.210 g, 0.3375 mmol) dissolved in 15 mL toluene was stirred at 80° C. for 1 minute . To the flask cooled to room temperature under inert atmosphere Pd(OAC)2 (0.050 g, 0.225 mmol) was added and the solution was stirred at room temperature for 2 minutes. To the reaction mixture [1-(3-Iodo-benzyl)-2-oxo-azepan-3-yl]-carbamic acid tert-butyl ester (1.0 g, 2.25 mmol) dissolved in 15mL toluene , aniline (1.047 g, 11.25 mmol) and Sodium tert-butoxide (0.259 g, 2.70 mmol) were added and the solution was stirred at 80° C. for 18 h. The reaction was cooled to room temperature, diluted with 200 mL of water, and extracted twice with 100 mL of ethyl acetate. The organic layer was dried with anhydrous sodium sulfate, filtered and concentrated to an oil. The oil was purified on flash silica gel column using 10-30% ethyl acetate in hexanes as eluent to yield 0.562 g (61%). MS (ESI) M+H=432.5.

reactant | [1-(3-Iodo-benzyl)-2-oxo-azepan-3-yl]-carbamic acid tert-butyl ester | 2.25 mmol, 1.0 g | C(C)(C)(C)OC(NC1C(N(CCCC1)CC1=CC(=CC=C1)I)=O)=O | C18H25IN2O3
reactant | aniline | 11.25 mmol, 1.047 g | NC1=CC=CC=C1 | C6H7N
reactant | Sodium tert-butoxide | 2.70 mmol, 0.259 g | CC(C)([O-])C.[Na+]
solvent | Binap | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 15mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 200 mL | O | H2O
catalyst | Pd(OAC)2 | 0.225 mmol, 0.050 g | CC(=O)O.CC(=O)O.[Pd]
solvent | (S)-(−)2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl | 0.3375 mmol, 0.210 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
product | [2-Oxo-1-(3-phenylamino-benzyl)-azepan-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1C(N(CCCC1)CC1=CC(=CC=C1)NC1=CC=CC=C1)=O)=O | C24H31N3O3
